US09351965B2
tert-Butyl-3-fluoro-3-(2-fluorobenzyl)cyclohexylcarbamate was reacted with HCl in dioxane (4 M) at room temperature. After stirring for overnight, 3-fluoro-3-(2-fluorobenzyl)cyclohexanamine was obtained after the removal of solvent by rotary evaporation.

reactant | tert-Butyl-3-fluoro-3-(2-fluorobenzyl)cyclohexylcarbamate | C(C)(C)(C)OC(NC1CC(CCC1)(CC1=C(C=CC=C1)F)F)=O | C18H25F2NO2
reactant | HCl | Cl | ClH
solvent | dioxane | 4 M | O1CCOCC1 | C4H8O2
product | 3-fluoro-3-(2-fluorobenzyl)cyclohexanamine | FC1(CC(CCC1)N)CC1=C(C=CC=C1)F | C13H17F2N
